US07626042B2
(1) 2-Hydroxy-5-iodo-N-[3,5-bis(trifluoromethyl)phenyl]benzamide
Using 5-iodosalicylic acid and 3,5-bis(trifluoromethyl)aniline as the raw materials, the same operation as the Example 1(1) gave the title compound.

reactant | 5-iodosalicylic acid | IC1=CC=C(C(C(=O)O)=C1)O | C7H5IO3
reactant | 3,5-bis(trifluoromethyl)aniline | FC(C=1C=C(N)C=C(C1)C(F)(F)F)(F)F | C8H5F6N
product | 2-Hydroxy-5-iodo-N-[3,5-bis(trifluoromethyl)phenyl]benzamide | Yield: 62.2% | OC1=C(C(=O)NC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=C(C=C1)I | C15H8F6INO2
